US05994353
Butyl 6-[N-(5-bromo-2-butoxybenzyl)-N-ethylamino]pyridazine-3-carboxylate
The title compound was prepared by reacting 1-iodobutane and butyl 6-[N-(5-bromo-2-hydroxybenzyl)-N-ethylamino]pyridazine-3-carboxylate using a similar method to that of reference example 4.

reactant | 1-iodobutane | ICCCC | C4H9I
reactant | butyl 6-[N-(5-bromo-2-hydroxybenzyl)-N-ethylamino]pyridazine-3-carboxylate | BrC=1C=CC(=C(CN(CC)C2=CC=C(N=N2)C(=O)OCCCC)C1)O | C18H22BrN3O3
product | Butyl 6-[N-(5-bromo-2-butoxybenzyl)-N-ethylamino]pyridazine-3-carboxylate | BrC=1C=CC(=C(CN(CC)C2=CC=C(N=N2)C(=O)OCCCC)C1)OCCCC | C22H30BrN3O3
